Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I came here because of the rash."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with self-reported history of 
depression and paranoia and at least two psychiatric 
hospitalizations for suicide attempts in the setting of paranoia 
who presented to the ___ ED on ___ for evaluation of a 
rash.
.
Per the ED Psychiatry Consult note, "on interview, patient 
reports she has had itching and rashes for ~2 weeks which are 
new and she believes are because someone is trying to frame her. 
She reports that a "government ___ from the police or FBI has a 
personal issue with me and is trying to use his working power to 
frame me". She reports that he may be planting evidence but is 
unable to elaborate. 
.
She reports that she wants to sue him because he has gained 
access to her computer and cell phone using "government 
surveillance power" and has obtained essays and writing that is 
her property. She reports that "I never feel safe" and feels 
that he may try to physically harm her although he has not 
physically harmed her in the past. When asked if she has ever 
seen or met this man, she states that an acquaintance of hers 
reminded her that she met him last year while staying at ___ 
___" for the whole month of ___. She reports that 
she feels that someone has been out to get her since ___ or 
___. 
.
Patient reports that she writes essays for people to use for 
medical school admissions and that this "government ___ married 
a girl who she helped get into ___ in ___. She reports that 
this makes his investigation of her "a conflict of interest". 
.
She is especially distressed by this because she believes that 
in court, people will not believe her over him although she is 
telling the truth because he knows people in the government and 
FBI. When she thinks of this, she has thoughts of wanting to end 
her life because she doesn't think she has a chance of winning. 
. 
She states her main concern is wanting to tell the truth. She 
reports in recent weeks she feels like he has somehow caused the 
rash that is on her arms and that the government has tried to 
give her food poisoning. 
.
She recognizes that she may be a little bit paranoid, but 
reports hat "wherever I go, it seems like police cars follow me 
and I am under surveillance". She finds it odd that she is a 
law-ab___ citizen, yet police are always around her. 
.
She has only been in ___ for 2 months and came here 
because she loves ___. She is currently staying at the ___ 
___. She spends most of her days at the ___ 
researching things on the computer. Most of her belongings have 
been left at a church in ___ (lived in ___ for ___ year prior to 2 
months ago, prior to ___ lived in ___ for several months). 
.
She reports good sleep, good appetite and energy. She endorses 
feelings of helplessness and hopelessness. She endorses paranoia 
and auditory hallucinations that occur ___ times per week and 
are a voice inside her head that says either "too late" or "too 
early". She knows this voice isn't real and is in her brain. She 
denies thought insertion/thought broadcasting/ideas of 
reference. 
.
She denies history of mania including periods of decreased need 
for sleep, irritability, increased energy/goal directed 
activity."
.
ED Course:
Per ED physician note, patient "presents emergency department 
with rash. Patient describes excoriated rash scattered 
throughout her body they are very pruritic in nature, not 
painful, not associated with any fevers for the past couple 
weeks. Does state that she has been scratching her wounds 
frequently. Otherwise she endorses that she has been watched by 
the FBI/CIA, and that they
are out to get her. She states she wants to commit suicide "if 
she gets framed for drug use by the FBI"."
.  
On interview at admission to the inpatient psychiatry unit, 
patient states government agents have been tracking her since 
___. She explains that she is a "ghost writer" for 
___ students, offering a service to help
them with college/graduate school admissions in the ___. She 
states this service is legal in ___, but may not be entirely 
legal in the ___. She states in ___, she was "ghost writing" 
for a ___ student and secured her admissions to several 
graduate schools in the ___. She states the student ended up 
being
displeased with her services, accused her of being a "scammer", 
and the student's mother emailed the patient, stating she had 
the patient's "exit and entry records from the government" and 
would be calling the police on her. Since then, the patient 
states at least 3 agents (affiliated with FBI or homeland 
security) have been following her, 2 of which she has met in 
hostels (one in ___ and one in ___). She refers to one of them as 
___ and shows
this writer a printed out photo of a man. 
.
She states these federal agents have already framed her for 
crimes, though she denies being arrested for them. She states 
they want to send her back to ___ will use "tricks" and "game 
playing" in order to incriminate her. She does not want to 
return to ___ because of her poor social standing there. 
Because of
this, she states she has become increasingly hopeless about her 
situation, and has had suicidal thoughts for "a while", with two 
previous suicide attempts. 
.
She states in ___, several government agents followed 
her and cornered her in ___ in ___. She asked them 
who they were and where they were from and they didn't answer 
her. She states they then told her they were going to bring her 
back to ___. She states she then ran into the bathroom in ___ 
___ and cut her wrists in order to escape them. She states 
this suicide attempt resulted in admission to inpatient 
psychiatry at ___ in ___. 
.
She states her second suicide attempt was this past ___ 
(overdose on a bottle of Tylenol) which resulted in admission to 
an inpatient psychiatric hospital in ___.  
.
She states she continues to feel hopeless right now and anxious 
because the believes the government gave her the rash she has 
now and she doesn't know what kind of infection it is. She also 
fears the government will get access to her medical records and 
"blood work" at ___. She asks this writer several times what will 
happen when the government comes looking for her here. She 
endorses
suicidal ideation right now, when asked about plans, she states 
she previously has thought of overdosing, but does not have 
plans right now. When asked about auditory hallucinations, she 
states she sometimes hears a man's voice telling her "it's too 
late". She doesn't recognize the man's voice and doesn't know 
the meaning of what he is saying. She believes this is a result 
of telepathic abilities, stating her and the man may be able to 
hear each others thoughts. 
.
She denies depressed mood and anhedonia and denies changes in 
sleep (gets ___ hours a night) or appetite. Denies homicidal 
thoughts or thoughts of harming anyone. She denies any symptoms 
of mania. She denies VH and delusions of reference. 
.
General ROS: Endorses diffuse pruritus and abdominal pain (which 
she states is because she is hungry). Otherwise negative.
.
.

 
Past Medical History:
PAST MEDICAL HISTORY:
Denies 
Denies history of seizures or head injuries.
.
.
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: paranoia, depression (patient states she
received these diagnoses from ___ and ___, respectively)
- Hospitalizations: 2; First in ___ @ ___. 
___
(was in ___ near ___, people tried to kidnap her so she
went in the bathroom and cut her wrists, bystanders called
police); Second in ___ @ ___ in ___ 
(took
bus from ___ to ___, paranoia re: FBI/police following
her, OD'd with Tylenol)
- Current treaters and treatment: none, never saw outpatient
psychiatrist or therapist post hospitalizations
- Medication and ECT trials: unknown - prescribed medication but
did not take
- Suicide attempts: OD with Tylenol ___, cutting wrists in
___.
- Self-injurious behavior: denies
- Harm to others: denies
- Access to weapons: denies
.
.

 
Social History:
SOCIAL HISTORY:
- Born/Raised: Born in ___, near ___. Parents divorced at 
age ___. Lived with mom. Mother remarried when she was ___, had 
stepsister. Moved to ___ ___ years ago to start a business in 
___ in ___
- Family/Support: friends in church
- Relationship status/Children: interested in women, no history 
of romantic partners, never married, no children
- Housing: Live in ___, mostly staying in shelters 
- Education: Graduated college in ___. Came to ___ for graduate 
school in ___ in biomedicine (did not graduate, dropped out)
- Employment/Income: helping write admissions essays online 
(never received income), family support and savings 
- Spiritual: ___
- Trauma history: physical abuse from stepfather, domestic 
violence in the home growing up
.
.
SUBSTANCE HISTORY:
- Alcohol: drinks 1 glass of wine at times, last drink ___ 
months ago
- Tobacco: denies 
- Other illicit substances and IVDU: denies
.
.
FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies
.

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- History of psychiatric disorders: denies
- History of suicide attempts: denies
- History of substance use: denies
.
 
Physical Exam:
PHYSICAL EXAMINATION AT ADMISSION:
 VS: *Refused vitals on admission. Most recent ED vitals:
     ___ 20:24 T-98.7, Hr-78, BP-98/71, RR-16, O2Sat-100% RA 
.
General: ___ year old woman in NAD. Well-nourished,
well-developed. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, 4cm>2cm. EOMI.
Oropharynx clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: wide spread excoriated rash involving bilateral upper and
lower extremities, did not examine abdominal region. 
.
Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline with tremor.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. DTRs: 1+ and
symmetrical throughout. Sensation: Intact to light touch
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
.
Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: DOWB with no errors
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration and delayed recall.
  Fund of knowledge: correctly names current and past 2 
  presidents.
  Calculations: $1.75 = 7 quarters
  Abstraction: apples+oranges="juice". watch+rule="measuring 
  tools". bike+train="transportation".
  Visuospatial: not assessed
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
.
Mental Status:
 Appearance: ___ year old ___ woman, appears her stated age.
Disheveled, uncombed hair with obvious dandruff, poor personal
hygiene. Wearing hospital gown and blanket. No apparent 
distress.
 Behavior: Mostly calm and cooperative, though guarded and
suspicious at times. Make eye contact intermittently,
occasionally looks around the room, as if RIS. No psychomotor
agitation or retardation, but is itching arms, abdomen, and legs
throughout the interview.
 Mood and Affect: "peaceful" / blunted, with few moments of
reactivity with slight smile.
 Thought Process: Tangential at times and does not answer most
questions directly. No LOA.
 Thought Content: Endorses SI without plan at this time. Denies
HI. Endorses intermittent AH of a mans voice telling her "it's
too late". Denies VH. Endorses paranoid delusions of being 
hunted
and framed by government agents and delusions of telepathy.  
 Judgment and Insight: poor/poor
.
.
========
.
Exam at Discharge:
.
Refused vitals on ___.
Prior vitals on ___:
BP 111/74, temp 97.9 PO, HR 76, RR 16, O2 97% RA
.
Neurological:
   *station and gait: grossly intact. Ambulates without 
assistance.
   *tone and strength: grossly intact
.
  *Appearance: ___ woman, appears her stated age, in NAD
  Behavior: calm cooperative polite, grateful for care
  *Mood and Affect: "good" / affect congruent
  *Thought process: linear, goal-directed, no LOA
  *Thought Content: denies SI intent at this time. denies HI.
does not appear to be responding to internal stimuli
  *Judgment and Insight: fair / fair given her help-seeking 
behavior and improvement in mood during this hospitalization
.
  Cognition:
    *Attention, *orientation, and executive function: grossly
intact
    *Memory: grossly intact
    *Fund of knowledge: grossly intact
    *Speech: normal rate/volume/tone
    *Language: fluent ___
.

 
Pertinent Results:
Laboratory Values:
CBC ___: WBC 5.6, H/H 10.0/32.4, Plts 120, ANC 3.26
.
Heme studies:
___: TIBC 283 wnl, Ferritin 20 wnl, Transferrin 218 wnl
.
Red Cell Morphology ___: 
Hypochr  1+
Anisocy  1+
Poiklo   3+
Macrocy  occasional
Microcy  1+
Polychr  occasional
Schisto  1+
Tear Dr  1+
Ellipto  1+
.
Hemoglobin Electrophoresis on ___:
HbA 94.0
HbS 0
HbC 0
HbA2 5.4
HbF 
.
Per lab report:
"Consistent with Beta Thalassemia trait
Correlation with iron studies is recommended 
Consider molecular diagnosis if at risk pregnancy
Hemoglobin electrophoresis is performed by Sebia capillary 
electrophoresis
Interpreted by ___, MD" 
.
Urine tox in ED prior to admission: Negative for benzos, 
barbituates, opiates, cocaine, amphetamine, and methadone.
.
Serum tox in ED prior to admission: Negative for aspirin, 
benzos, barbituates, ethanol, TCAs and acetaminophen.
.
Liver Studies:
___: ALT 7, AST 14, AP 40, TBili 0.3
.
Thyroid Studies:
___: TSH 5.1 slightly elevated, T4 1.4 wnl
.
RPR
___: non-reactive
.
. 
ADDITIONAL LABORATORY STUDIES:
___ 11:15AM URINE  HOURS-RANDOM
___ 11:15AM URINE  UCG-NEG
___ 11:15AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 07:35AM   GLUCOSE-97 UREA N-7 CREAT-0.6 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-26 ANION GAP-11
___ 07:35AM   estGFR-Using this
___ 07:35AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:35AM   WBC-4.5 RBC-4.99 HGB-10.2* HCT-32.7* MCV-66* 
MCH-20.4* MCHC-31.2* RDW-15.6* RDWSD-34.7*
___ 07:35AM   NEUTS-63.3 ___ MONOS-5.6 EOS-8.0* 
BASOS-0.0 IM ___ AbsNeut-2.84 AbsLymp-1.03* AbsMono-0.25 
AbsEos-0.36 AbsBaso-0.00*
___ 07:35AM   PLT COUNT-119*
.
.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with self-reported history of 
depression and paranoia and at least two psychiatric 
hospitalizations for suicide attempts in the setting of paranoia 
who presented to the ___ ED on ___ for evaluation of a 
rash.
.
On interview at admission, Ms. ___ was endorsing paranoid 
delusions of being followed and framed by government agents for 
over ___ years along with auditory hallucinations and delusions 
of telepathy. She described hopelessness and suicidal thoughts 
in the setting of paranoid delusions and notes two previous 
suicide attempts in ___. Mental status exam was significant for 
disheveled, unkempt appearance with poor personal hygiene, a 
blunted affect and occasionally tangential thought process. She 
also paused throughout the interview and occasionally looks 
around the room, possibly RIS. Cognitive and neurological 
examination was largely unremarkable. Physical exam was 
significant for a wide spread excoriated rash which patient 
describes as very itchy. Urine and serum tox screens were 
negative. She was admitted to the inpatient psychiatric unit, 
requiring inpatient level of care secondary to risk to self and 
decreased self care. 
.
By day of discharge, the patient notes that Risperdal helps her 
with anxiety. She denies any side effects from this medication. 
She reports sleeping well at night. She denies SI at this time. 
She reports that her skin is improving. She believes that 
ointments and dermatology treatments have been helpful. She 
endorses feeling ready for discharge at this time.
.
DSM5 DIAGNOSIS:
schizophrenia spectrum condition
.
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___. However, 
she did sign the conditional voluntary on ___. 
.
The patient was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.
.
She had no behavioral or safety concerns during this admission.
.
2. PSYCHIATRIC:
#) unspecified psychotic disorder
.
During this hospitalization, the ED started Risperidone 0.5mg 
BID. During this hospitalization, this dose was increased to 1.0 
mg BID on ___. On ___, she was ordered for RisperiDONE 
2 mg PO QHS psychosis. She was initially tired on this regimen 
but this improved. She was given an addition 0.5 mg Risperidone 
on PO on ___ and found this dose increase to be helpful. 
She was discharged on ___ on Risperidone 2.5 mg PO QHS 
psychosis. She denied side effects on this regimen.
.
3. SUBSTANCE USE DISORDERS:
denied use of substances
.
ED lab results
 -Urine tox: Negative for benzos, barbituates, opiates, cocaine, 
amphetamine, and methadone.
 -Serum tox: Negative for aspirin, benzos, barbituates, ethanol, 
TCAs and acetaminophen.
.
4. MEDICAL
The patient was medically cleared in the ED
.
 #Scabies infection -> treated
  -Patient received one application of topical permethrin on 
___ in the ED.
  -Per dermatology recs, second application indicated ___ -> 
patient received and tolerated the treatment well.
.
 #Rash on UE and ___ b/l
  - Merit consulted, suggested CBC w diff, recommended Derm 
consult. Derm to bedside ___. Per derm note:
"Favor diagnosis of atopic dermatitis given characteristic 
appearance and distribution of lesions as well as patient's 
history of atopic dermatitis. Recent trigger for worsening of 
atopic dermatitis after long period of quiescence is unclear, w/ 
potential environmental triggers including heat, humidity, 
detergents / soaps, abrasive clothing, chemicals, smoke, and 
even stress.
.
Given patient has involvement of eruption over b/l ankles, and 
slightly on L dorsal hand, scabies infection is also on the DDX 
we agree with treating empirically for scabies infection 
(particularly as patient is living in group housing)."
.
 - greatly appreciate Derm recommendations. During this 
hospitalization, the patient was prescribed the Dermatology 
recommendations as noted:
.
-Betamethasone Dipro 0.05% Oint BID to affected areas x14 days
-Daily use of bland emollients (ie Hydrolatum cream)to retain 
skin moisture and to compensate for altered skin barrier -> 
ordered Aquaphot given formulary choices  
-___ continue using DiphenhydrAMINE 25 mg PO/NG Q6H:PRN for 
pruritus. However, if treating patient concomitantly for 
depression, may consider switching to doxepin 10 mg qhs (may 
uptitrate to 30 mg qhs) 
-Repeat topical permethrin 5% on ___: thoroughly massage 
cream (30 g for average adult) from head to soles of feet; leave 
on overnight (8 to 14 hours) before removing (shower or bath) -> 
treatment received without issue
.
At this time, topical permetrin treatment is complete.
.
.
 #Microcytic anemia: 
  - continue to follow labs
  - of note, in laboratory values
CBC ___: WBC 5.6, H/H 10.0/32.4, Plts 120, ANC 3.26
.
Heme studies:
___: TIBC 283 wnl, Ferritin 20 wnl, Transferrin 218 wnl
.
Red Cell Morphology ___: 
Hypochr  1+
Anisocy  1+
Poiklo   3+
Macrocy  occasional
Microcy  1+
Polychr  occasional
Schisto  1+
Tear Dr  1+
Ellipto  1+
.
Hemoglobin Electrophoresis on ___:
HbA 94.0
HbS 0
HbC 0
HbA2 5.4
HbF 
.
Per lab report:
"Consistent with Beta Thalassemia trait
Correlation with iron studies is recommended 
Consider molecular diagnosis if at risk pregnancy
Hemoglobin electrophoresis is performed by Sebia capillary 
electrophoresis
Interpreted by ___, MD" 
.
  - Patient notified and educated on these results
.
  - Suggest that outpatient PCP continue to follow
.
 #Thyroid studies:
TSH 5.1 but T4 1.4 within normal 
At this time, elevated TSH considered to be due to stress
Suggest that outpatient PCP continue to follow
.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focused on teaching 
patients various coping skills. She attended groups, was  
visible on the milieu, and appropriately interacted with staff 
and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's family resides in ___ and was not able to visit 
during this admission.
.
.
6. INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to taking the 
medication.
.
Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)
.
7. RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself.  
.
The patient's risk factors include unemployment, homelessness, 
chronic mental illness, previous suicide attempts, medication 
non-adherence, lack of outpatient treaters, and ongoing 
paranoia/psychosis. 
.
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
.
The patient is being discharged with many protective factors, 
including female
gender, lack of substance use, and no access to lethal weapons. 
Overall, based on the totality of our assessment at this time, 
Ms. ___ is not at an acutely elevated risk of self to harm nor 
danger to others. 
.
Our prognosis of this patient is fair.
.
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aquaphor Ointment 1 Appl TP DAILY:PRN to skin as needed to 
retain skin moisture 
RX *white petrolatum [Aquaphor Original] 41 % apply to skin as 
needed to retain moisture once a day Disp #*396 Gram Gram 
Refills:*0 
2.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID Duration: 14 
Days 
This is for 14 days total, and your treatment was started on 
___.  
RX *betamethasone dipropionate 0.05 % apply to rash areas twice 
a day Refills:*0 
3.  DiphenhydrAMINE 25 mg PO Q6H:PRN itchiness 
RX *diphenhydramine HCl 25 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0 
4.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*14 Tablet Refills:*0 
5.  RisperiDONE 2.5 mg PO QHS psychosis 
RX *risperidone 2 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0
RX *risperidone 0.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
schizophrenia spectrum condition

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___